US07781436B2
[6-Chloro-1-(2-methylamino-ethyl)-1H-indol-3-yl]-[4-(2-ethoxy-phenyl)-piperazin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-ethoxy-phenyl)-piperazin-1-yl]-methanone (preparation described herein), with (commercially available) (2-chloro-ethyl)-methyl-amine gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-ethoxy-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC | C21H22ClN3O2
reactant | (2-chloro-ethyl)-methyl-amine | ClCCNC | C3H8ClN
product | [6-Chloro-1-(2-methylamino-ethyl)-1H-indol-3-yl]-[4-(2-ethoxy-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CN(C2=C1)CCNC)C(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC | C24H29ClN4O2
